US06894061B2
4-[(2-Dibenzo[b,d]furan-4-yl-6-ethylphenanthridin-5(6H)-yl)sulfonyl]phenol
A stirred and cooled solution of 2-(dibenzo[b,d]furan-4-yl)-6-ethyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine (0.855 g, 1.56 mmol) and cyclohexene (1.26 mL, 12.5 mmol) in dichloromethane (5 mL) was treated drop-wise under nitrogen at −30° C. with boron tribromide (1.18 mL, 12.5 mmol). After the addition was completed, the reaction mixture was allowed to warm to room temperature and stirred for four hours. The reaction was cooled to −30° C. and quenched with methanol (1 mL). The solvent was removed in vacuo, and the residue was purified by flash column chromatography on silica gel to yield the title compound (0.756 g, 1.42 mmol, 91%), which was characterized by LCMS (ES+, FA, CV=20 or 5), m.p. 218-220° C.;

reactant | 2-(dibenzo[b,d]furan-4-yl)-6-ethyl-5-[(4-methoxyphenyl)sulfonyl]-5,6-dihydrophenanthridine | 1.56 mmol, 0.855 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=2C1=CC=CC=C1C(N(C2C=C3)S(=O)(=O)C3=CC=C(C=C3)OC)CC | C34H27NO4S
reactant | cyclohexene | 12.5 mmol, 1.26 mL | C1=CCCCC1 | C6H10
reactant | boron tribromide | 12.5 mmol, 1.18 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-[(2-Dibenzo[b,d]furan-4-yl-6-ethylphenanthridin-5(6H)-yl)sulfonyl]phenol | 1.42 mmol, 0.756 g, 91% | C1=CC=C(C=2OC3=C(C21)C=CC=C3)C3=CC=2C1=CC=CC=C1C(N(C2C=C3)S(=O)(=O)C3=CC=C(C=C3)O)CC | C33H25NO4S
